US09216999B2
N-Cyclohexyl-5-(methylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-amine
4-Chloro-5-(methylsulfonyl)-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (61 mg, 0.16 mmol) in cyclohexylamine (200 μL, 1.74 mmol) was stirred with N,N-diisopropylethylamine (40 μL, 0.23 mmol) at 120° C. for 30 minutes The reaction mixture was allowed to cool to room temperature and, after addition of water, extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=20/1→5/1 (v/v)) to give the title compound as a colorless solid (7.0 mg, yield 15%).

reactant | 4-Chloro-5-(methylsulfonyl)-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 0.16 mmol, 61 mg | ClC1=C2C(=NC=C1S(=O)(=O)C)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C17H27ClN2O2SSi
reactant | cyclohexylamine | 1.74 mmol, 200 μL | C1(CCCCC1)N | C6H13N
reactant | N,N-diisopropylethylamine | 0.23 mmol, 40 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | water | O | H2O
product | N-Cyclohexyl-5-(methylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-amine | 7.0 mg, yield 15% | C1(CCCCC1)NC=1C2=C(N=CC1S(=O)(=O)C)NC=C2 | C14H19N3O2S
